US07384945B2
Preparation of 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole:
4.6 g of 4-[6-fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester (7.6 mmol) were stirred in 51 ml trifluoroacetic acid (661 mmol) for 2 h at rt. The reaction mixture was diluted with 500 ml water and the pH adjusted to 8 with solid sodium bicarbonate. The mixture was extracted twice with ethyl acetate and the combined organic phases were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was then suspended in 70 ml water, the pH adjusted to 9 with ammonium hydroxide, extracted with ethylacetate, washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo., leading to 3.67 g of 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole as a light yellow solid (95%). MS(ISP): 500.3 (M+H)+.

reactant | 4-[6-fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester | 7.6 mmol, 4.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=C(N=C(N2CC2=CC=C(C=C2)OC(F)(F)F)COC2=CC=CC=C2)C=C1F | C31H32F4N4O4
reactant | trifluoroacetic acid | 661 mmol, 51 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 500 ml | O | H2O
product | 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole | FC1=CC2=C(N(C(=N2)COC2=CC=CC=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=C1N1CCNCC1 | C26H24F4N4O2
